US07034039B2
To a mixture of tert-butyl{6-[amino(hydroxyimino)-methyl]-2-isobutyl-1-oxo-4-phenyl-1,2-dihydro-3-isoquinolinyl}methylcarbamate (0.47 g, 1.0 mmol) and triethylamine (0.17 mL, 1.2 mmol) in ethyl acetate (10 mL) was added methylpropionate (0.10 g, 1.2 mmol), and the mixture was stirred at room temperature for 17 h. The reaction mixture was poured into water (5 mL), and the organic layer was separated. The organic layer was dried over anhydrous magnesium sulfate and concentrated under reduced pressure. To the residue was added p-xylene (10 mL), the mixture was refluxed for 40 h. The reaction mixture was diluted with ethyl acetate (100 mL), and the solution was washed with water, dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (n-hexane:ethyl acetate=1:1 (v/v)) to give methyl 2-(3-{[(tert-butoxycarbonyl)amino]methyl}-2-isobutyl-1-oxo-4-phenyl-1,2-dihydro-6-isoquinolinyl)-1H-imidazole-4-carboxylate (0.22 g, 42%) as an orange powder.

reactant | tert-butyl{6-[amino(hydroxyimino)-methyl]-2-isobutyl-1-oxo-4-phenyl-1,2-dihydro-3-isoquinolinyl}methylcarbamate | 1.0 mmol, 0.47 g | C(C)(C)(C)OC(NCC=1N(C(C2=CC=C(C=C2C1C1=CC=CC=C1)C(=NO)N)=O)CC(C)C)=O | C26H32N4O4
reactant | triethylamine | 1.2 mmol, 0.17 mL | C(C)N(CC)CC | C6H15N
reactant | methylpropionate | 1.2 mmol, 0.10 g | COC(CC)=O | C4H8O2
reactant | water | 5 mL | O | H2O
solvent | ethyl acetate | 10 mL | C(C)(=O)OCC | C4H8O2
product | methyl 2-(3-{[(tert-butoxycarbonyl)amino]methyl}-2-isobutyl-1-oxo-4-phenyl-1,2-dihydro-6-isoquinolinyl)-1H-imidazole-4-carboxylate | 0.22 g, 42% | C(C)(C)(C)OC(=O)NCC=1N(C(C2=CC=C(C=C2C1C1=CC=CC=C1)C=1NC=C(N1)C(=O)OC)=O)CC(C)C | C30H34N4O5
